US07696226B2
1-[({[(3R)-2-oxotetrahydro-3-furanyl]oxy}carbonyl)oxy]-2,5-pyrrolidinedione
(R)-alpha-Hydroxybutyrolactone (8 μL, 0.11 mmol) was dissolved in acetonitrile (0.5 mL) and treated with triethylamine (45 μL, 1.5 equivalents), and disuccinimidyl carbonate (42 mg, 1.5 equivalent) at 25° C. for 16 hrs. The solvents were evaporated and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate, the organic layer was separated, washed with brine, dried over magnesium sulfate, filtered and evaporated.

reactant | (R)-alpha-Hydroxybutyrolactone | 0.11 mmol, 8 μL | O[C@H]1C(=O)OCC1 | C4H6O3
reactant | triethylamine | 45 μL, 1.5 equivalents | C(C)N(CC)CC | C6H15N
reactant | disuccinimidyl carbonate | 42 mg, 1.5 equivalent | C(ON1C(CCC1=O)=O)(ON1C(CCC1=O)=O)=O | C9H8N2O7
solvent | acetonitrile | 0.5 mL | C(C)#N | C2H3N
product | 1-[({[(3R)-2-oxotetrahydro-3-furanyl]oxy}carbonyl)oxy]-2,5-pyrrolidinedione | O=C1OCC[C@H]1OC(=O)ON1C(CCC1=O)=O | C9H9NO7
